US06642234B1
5) Synthesis of 2-(5-Methyl-2-phenyl-1,2,3-triazol4-yl)ethanenitrile
1.8 g of sodium cyanide was suspended in 30 ml of DMF, and 5.0 g of 4-chloromethyl-5-methyl-2-phenyl-1,2,3-triazol was added under cooling with ice. After stirring for 3 hours at room temperature, an aqueous solution of sodium hydroxide was added to the reaction solution to make it alkaline, and extracted with toluene. The organic phase was washed with water and a saturated salt solution, then dried over anhydrous sodium sulfate. After the solvent was distilled off, the deposited crystals were washed with hexane to obtain 4.3 g of the aimed compound.

reactant | sodium cyanide | 1.8 g | [C-]#N.[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenyl-1,2,3-triazol | 5.0 g | ClCC1=NN(N=C1C)C1=CC=CC=C1 | C10H10ClN3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(5-Methyl-2-phenyl-1,2,3-triazol4-yl)ethanenitrile | 4.3 g | CC=1C(=NN(N1)C1=CC=CC=C1)CC#N | C11H10N4
